* Generic Koren-style triode model (T006 example, not physically accurate).
*
* Source: simplified illustrative form of the Koren-3 triode equation
*   I_p ~ K * (U_g + U_p/MU)^EX  (kept symbolically via ngspice ** below).
* tube_type: triode
* Pins: P (plate), G (grid), K (cathode)
*
* Replace with vendor-fitted parameters before using in a real design.
.SUBCKT GENERIC_TRIODE P G K
* Bridging current source — placeholder, not real Koren formula.
Bp P K I=0.1m * (V(G,K) + V(P,K)/100)**1.5
* Grid-to-cathode capacitance (typical ECC83 ballpark).
Cgk G K 1.6p
* Plate-to-grid capacitance.
Cpg P G 1.6p
.ENDS GENERIC_TRIODE
